### PR TITLE
[Merged by Bors] - feat(Algebra/Homology): the functor `F.rightDerivedFunctorPlus` is triangulated

### PR DESCRIPTION
**Pull request by joelriou**
We also show that when `F : C ⥤ D` is an additive functor between abelian categories (with enough injectives in `C`), then the functor `F.rightDerivedFunctorPlus` which is $$RF : D^+(C) \Rightarrow D^+(D)$$ can be thought not only as a derived functor of the functor induced by `F` on the bounded below homotopy category, but also as a derived functor of the functor induced by  `F` on the category of bounded below cochain complexes. All the functors and natural transformations that are involved in these constructions are shown to commute with shifts.

---

- [x] depends on: #39128
- [x] depends on: #43237
- [x] depends on: #43240
- [x] depends on: #43086
- [x] depends on: #43089
- [x] depends on: #43103
- [x] depends on: #40863
- [x] depends on: #40885
- [x] depends on: #40887
- [x] depends on: #40888
- [x] depends on: #40892
- [x] depends on: #40895
- [x] depends on: #40923
- [x] depends on: #40944
- [x] depends on: #40884
- [x] depends on: #40924
- [x] depends on: #41000
- [x] depends on: #41063
- [x] depends on: #43063
- [x] depends on: #39126
- [x] depends on: #39117

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Localization/DerivabilityStructure/PointwiseLeftDerived.lean [hunk 1]
```diff
@@ -0,0 +1,134 @@
...
+public import Mathlib.CategoryTheory.Functor.Derived.PointwiseLeftDerived
+public import Mathlib.CategoryTheory.GuitartExact.KanExtension
+public import Mathlib.CategoryTheory.Limits.Final
+
+/-!
+# Existence of pointwise left derived functors via derivability structures
+
+In this file, we show how a left derivability structure can be used in
+order to construct (pointwise) left derived functors.
+Let `Φ` be a right derivability structure from `W₁ : MorphismProperty C₁`
```
Comment (kim-em) [inline Mathlib/CategoryTheory/Localization/DerivabilityStructure/PointwiseLeftDerived.lean]:
```suggestion
Let `Φ` be a left derivability structure from `W₁ : MorphismProperty C₁`
```

File: Mathlib/CategoryTheory/Localization/DerivabilityStructure/PointwiseLeftDerived.lean [hunk 2]
```diff
@@ -0,0 +1,134 @@
...
+`Mathlib/CategoryTheory/Localization/DerivabilityStructure/PointwiseRightDerived.lean`.
+
+## References
+* [Bruno Kahn and Georges Maltsiniotis, *Structures de dérivabilité*][KahnMaltsiniotis2008]
+
+-/
+
+@[expose] public section
+
+universe v₁ v₂ v₃ v₄ v₅ u₁ u₂ u₃ u₄ u₅
```
Comment (kim-em) [inline Mathlib/CategoryTheory/Localization/DerivabilityStructure/PointwiseLeftDerived.lean]:
```suggestion
```

File: Mathlib/CategoryTheory/Localization/DerivabilityStructure/DerivesTriangulated.lean [hunk 3]
```diff
@@ -0,0 +1,87 @@
...
+
+set_option backward.defeqAttrib.useBackward true in
+set_option backward.isDefEq.respectTransparency.types false in
+include hF in
+lemma isTriangulated_of_isLeftDerivedFunctor
+    [Φ.IsLeftDerivabilityStructure] [Φ.arrow.HasLeftResolutions]
+    {RF : D₂ ⥤ H} [RF.CommShift ℤ]
+    (α : L ⋙ RF ⟶ F) [NatTrans.CommShift α ℤ]
+    [RF.IsLeftDerivedFunctor α W₂] :
+    RF.IsTriangulated :=
```
Comment (kim-em) [inline Mathlib/CategoryTheory/Localization/DerivabilityStructure/DerivesTriangulated.lean]:
```suggestion
    {LF : D₂ ⥤ H} [LF.CommShift ℤ]
    (α : L ⋙ LF ⟶ F) [NatTrans.CommShift α ℤ]
    [LF.IsLeftDerivedFunctor α W₂] :
    LF.IsTriangulated :=
```

**Comment by kim-em** [comment]
In `DerivabilityStructureInjectives.lean`, replace lines 243–248 with:

```lean
  · rw [quasiIso_map_quotient_eq_quasiIso]
```

**Comment by kim-em** [comment]
:robot: Codex says:

I checked locally that moving the generic `(quotient C ⋙ L).IsLocalization ...` instance from `DerivabilityStructureInjectives.lean` to `HomotopyCategory/Plus.lean` makes the `Qh` instance in `DerivedCategory/Plus.lean` inferable, so both proofs can be removed.

File: Mathlib/Algebra/Homology/DerivedCategory/RightDerivedFunctorPlus.lean [hunk 4]
```diff
@@ -33,34 +41,124 @@ variable {C D : Type*} [Category* C] [Category* D] [Abelian C] [Abelian D]
...
 when `F : C ⥤ D` is an additive functor between abelian categories and
-`C` has enough injectives. -/
-noncomputable def rightDerivedFunctorPlusUnit :
+`C` has enough injectives. It is defined here as a derived functor of
+`F.mapHomotopyCategoryPlus : HomotopyCategory.Plus C ⥤ HomotopyCategory.Plus D`,
+postcomposed with `DerivedCategory.Plus.Qh`.
+(See `Functor.rightDerivedFunctorPlusUnit` for the similar result regarding
+`F.mapCochainComplexPlus : CochainComplex.Plus C ⥤ CochainComplex.Plus D`.) -/
+@[no_expose]
+noncomputable def rightDerivedFunctorPlusUnith :
```
Comment (kim-em) [inline Mathlib/Algebra/Homology/DerivedCategory/RightDerivedFunctorPlus.lean:59]: Not thrilled about just using `h` suffix here on the name to indicate we're in the homotopy category now.

Comment (joelriou) [reply Mathlib/Algebra/Homology/DerivedCategory/RightDerivedFunctorPlus.lean:59]: This parallels the fact that the localization functor to the derived category is `Q` from the category of cochain complexes, and `Qh` from the homotopy category.

**Comment by joelriou** [comment]
Thanks @kim-em for the suggestions!

File: Mathlib/Algebra/Homology/DerivedCategory/RightDerivedFunctorPlus.lean [hunk 5]
```diff
@@ -6,17 +6,25 @@ Authors: Joël Riou
...
 `F.rightDerivedFunctorPlus : DerivedCategory.Plus C ⥤ DerivedCategory.Plus D`
-between the corresponding bounded below derived categories.
+between the corresponding bounded below derived categories. We define
+this derived functor as the derived functor of the functor
+`F.mapHomotopyCategoryPlus` induced by `F` on the bounded below
+homotopy categories. We take advantage of this definition in order to
+show that `F.rightDerivedFunctorPlus` is a triangulated functor.
+We also show that `F.rightDerivedFunctorPlus` may also be thought of
+as a derived functor of the functor `F.mapCochainComplexPlus`
+that `F` induces on the category of bounded below cochain complexes.
```
Comment (joelriou) [inline Mathlib/Algebra/Homology/DerivedCategory/RightDerivedFunctorPlus.lean]:
```suggestion
that `F` induces on the categories of bounded below cochain complexes.
```

File: Mathlib/Algebra/Homology/HomotopyCategory/Plus.lean [hunk 6]
```diff
@@ -313,6 +326,51 @@ instance [Full F] [Faithful F] : Faithful F.mapHomotopyCategoryPlus where
     ext
     exact (F.mapHomotopyCategory _).map_injective ((ObjectProperty.ι _).congr_map h)
 
+/-- The functor `F.mapHomotopyCategoryPlus : HomotopyCategory.Plus C ⥤ HomotopyCategory.Plus D`
+is induced by `F.mapHomotopyCategory (.up ℤ)`. -/
+@[simps! -isSimp]
+def mapHomotopyCategoryPlusCompι :
+    F.mapHomotopyCategoryPlus ⋙ HomotopyCategory.Plus.ι D ≅
+    HomotopyCategory.Plus.ι C ⋙ F.mapHomotopyCategory (.up ℤ) :=
+  Iso.refl _
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/HomotopyCategory/Plus.lean:335]: Something is a bit fishy here: trying to replace it with `NatIso.ofComponents (fun _ ↦ Iso.refl _)` gets automation stuck. This suggest that we should either not at all have `@[simps! -isSimp]` (and consider this natural transformation as its own opaque thing), or we should try to make it so that when unfolded to its definition the transformation behaves well (the automation failure seems to indicate that currently it’s not the case).

it works if you add `@[implicit_reducible, simps]` to `mapHomotopyCategoryPlus`.
Same for the second `.refl` isomorphism below.

File: Mathlib/Algebra/Homology/HomotopyCategory.lean [hunk 7]
```diff
@@ -250,6 +251,10 @@ def Functor.mapHomotopyCategoryFactors (F : V ⥤ W) [F.Additive] (c : ComplexSh
       F.mapHomologicalComplex c ⋙ HomotopyCategory.quotient W c :=
   CategoryTheory.Quotient.lift.isLift _ _ _
 
+lemma Functor.mapHomotopyCategoryFactors_hom_app (F : V ⥤ W) [F.Additive] {c : ComplexShape ι}
+    (K : HomologicalComplex V c) :
+    (F.mapHomotopyCategoryFactors c).hom.app K = 𝟙 _ := rfl
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/HomotopyCategory.lean:256]: Do we really need this in this form? it is not correct at implicit-reducible transparency.

**Review by robin-carlier — COMMENTED** [review]
Only nitpicks about transparency in some of the satellite declarations.

File: Mathlib/Algebra/Homology/HomotopyCategory.lean (hunk 7 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/HomotopyCategory.lean:256]: The proof is not `by with_implicit rfl`, but replacing `𝟙 _` by `eqToHom (by with_implicit rfl)` works, which is the reason I believe this should be safe (and the same applies to other natural isomorphisms that I have tagged as `@[simps! -isSimp]`). This is used in the proof of `whiskerRight_quotientCompMapHomotopyCategoryPlusIso_hom_ι` in `Algebra/Homology/HomotopyCategory/Plus.lean`. (Basically, there is a "commutating" cube of categories and functors, and the natural isomorphism on each face is `Iso.refl _`.)

File: Mathlib/Algebra/Homology/HomotopyCategory/Plus.lean (hunk 6 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/HomotopyCategory/Plus.lean:335]: Thanks! It does work better now. This also allows to remove the `change` in the proof of `whiskerRight_quotientCompMapHomotopyCategoryPlusIso_hom_ι`.

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
